US04833169
To a solution of 7.27 g (30 mmol) of methanesulphonic acid (5-methoxybenzocyclobuten-1-yl)methyl ester in 60 ml of dimethylformamide there are added first 5.66 g (36 mmol) of piperidine-3-carboxylic acid ethyl ester and then 9.70 g (75 mmol) of N-ethyl-N,N-diisopropylamine. The mixture is stirred at 60° for 18 hours and, after cooling,is concentrated by evaporation under a high vacuum. The residue is taken up in diethyl ether and washed with water, and the organic phase is extracted with 2N hydrochloric acid. The hydrochloric acid extracts are combined, rendered alkaline at reduced temperature with concentrated sodium hydroxide solution and extracted with dichloromethane. The combined organic phases are dried over sodium sulphate and concentrated to dryness by evaporation under reduced pressure. 1-[(5-methoxybenzocyclobuten-1-yl)methyl]-piperidine-3-carboxylic acid ethyl ester is obtained in the form of a yellow oil.

reactant | methanesulphonic acid (5-methoxybenzocyclobuten-1-yl)methyl ester | 30 mmol, 7.27 g | COC=1C=CC2=C(C(=C2)COS(=O)(=O)C)C1 | C11H12O4S
reactant | piperidine-3-carboxylic acid ethyl ester | 36 mmol, 5.66 g | C(C)OC(=O)C1CNCCC1 | C8H15NO2
reactant | N-ethyl-N,N-diisopropylamine | 75 mmol, 9.70 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
product | 1-[(5-methoxybenzocyclobuten-1-yl)methyl]-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1CN(CCC1)CC1=CC2=C1C=C(C=C2)OC | C18H23NO3
